US06231833B1
(7RS,9aSR)-7-(4-Fluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A mixture of (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (U.S. Pat. No. 5,326,874) and 3,6-di-chloropyridazine were combined according to Preparation 3. The product from this reaction was coupled with 4-fluorophenol according to Example 1 to give the title compound. mp (—HCl) 255° C. (dec). HRMS calc for C19H22ClFN4O: 376.1461, found: 376.1458.

reactant | (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | OCC1CCC2N(CCNC2)C1 | C9H18N2O
reactant | 3,6-di-chloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | (7RS,9aSR)-7-(4-Fluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OCC2CCC3N(CCN(C3)C=3N=NC(=CC3)Cl)C2)C=C1 | C19H22ClFN4O
